US07470700B2
Example 30A was also prepared as follows. Dimethylaniline (195 mL, 1.54 mol) was added to a slurry of 5-fluorouracil (99.73 g, 0.77 mol) in phosphorus oxychloride (215 mL, 2.31 mol) at 95° C. under a nitrogen atmosphere. The reaction mixture was stirred at this temperature for 3.5 h, cooled to room temperature and then slowly added to a stirred mixture of ice (200 g) and 6 M HCl (200 mL). The resulting slurry was extracted with dichloromethane (2×400 mL) and the combined organic extracts were washed with DI water (4×275 mL), dried over MgSO4 and concentrated under reduced pressure to afford 111.77 g (87%, 98.1% AUC by HPLC) of 5-fluoro-2,4-dichloro-pyrimidine as an amber oil. A molar solution of sodium hydroxide (1.34 L) was slowly added to a solution of the 5-fluoro-2,4-dichloro-pyrimidine (111.77 g, 0.67 mol) in THF (377 mL) at 0° C. After the reaction mixture was stirred for about 30 min at room temperature, the pH was adjusted to 6 by a slow addition of 1.0 M HCl. The aqueous solution was extracted with ethyl acetate (440 mL) to remove impurities following which the pH was adjusted to 1 with 1.0 M HCl. The acidic aqueous solution was extracted with ethyl acetate (4×555 mL) and the combined organic extracts were washed with brine (111 mL), dried over MgSO4 and concentrated under reduced pressure to produce 88.35 g (89%, 99.2% AUC by HPLC) of 2-chloro-5-fluoro-3H-pyrimidin-4-one as an off-white powder.

reactant | sodium hydroxide | 1.34 L | [OH-].[Na+]
reactant | 5-fluoro-2,4-dichloro-pyrimidine | 0.67 mol, 111.77 g | FC=1C(=NC(=NC1)Cl)Cl | C4HCl2FN2
reactant | HCl | 1.0 M | Cl | ClH
solvent | THF | 377 mL | C1CCOC1 | C4H8O
product | 2-chloro-5-fluoro-3H-pyrimidin-4-one | 88.35 g | ClC1=NC=C(C(N1)=O)F | C4H2ClFN2O
